### PR TITLE
Relate Hyland's representation theorem to Scott's representation theorem

### PR DESCRIPTION
**Pull request by arnoudvanderleer**

### CODE REVIEW

**Review by benediktahrens — APPROVED** [review]

File: UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v [hunk 1]
```diff
@@ -0,0 +1,171 @@
...
+(** * 2. The isomorphism between the reflexive objects *)
+
+  Let U := U (n := 0) L (β_lambda_theory_has_β L).
+
+  Let X := yoneda _ (set_karoubi_ob_object _ (F1 U)).
+  Let f := identity X.
+  Let g := #(yoneda _) (set_karoubi_ob_idempotent _ (F1 U)).
+  Let E := Equalizers_PreShv X X f g.
+
+  Definition left_hand_iso_mor
```
Comment (KobeWullaert) [inline UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v:109]: This definition, and the ones below, are perhaps better declared as local definitions.

**Review by KobeWullaert — APPROVED** [review]
Looks good to me! (modulo my comment)

File: UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v:109]: So
```suggestion
  Local Definition left_hand_iso_mor
```

File: UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v [hunk 2]
```diff
@@ -0,0 +1,171 @@
...
+    - use make_nat_trans.
+      * exact (λ x y, y).
+      * easy.
+    - use make_nat_trans.
+      * exact (λ x y, y).
+      * easy.
+    - split;
+        apply nat_trans_eq_alt;
+        easy.
+  Defined.
```
Comment (arnoudvanderleer) [inline UniMath/AlgebraicTheories/RepresentationTheoremsRelation.v:161]:
```suggestion
  Local Definition left_hand_iso_inv
    : D4⟦X, E⟧.
  Proof.
    use (EqualizerIn E X g).
    abstract (
      refine (id_right _ @ _);
      refine (_ @ functor_comp _ _ _);
      apply (maponpaths (# _));
      exact (!idempotent_is_idempotent _)
    ).
  Defined.

  Local Lemma left_hand_iso_is_iso
    : is_inverse_in_precat left_hand_iso_mor left_hand_iso_inv.
  Proof.
    split.
    - apply EqualizerInsEq.
      refine (_ @ !id_left _).
      refine (assoc' _ _ _ @ _).
      refine (maponpaths _ (EqualizerCommutes _ _ _ _) @ _).
      refine (!EqualizerEqAr _ @ _).
      apply id_right.
    - refine (EqualizerCommutes _ _ _ _ @ _).
      refine (_ @ functor_id (yoneda _) _).
      refine (maponpaths (# _) _).
      refine (β_lambda_theory_has_β L _ _).
  Qed.

  Local Definition left_hand_iso
    : z_iso E X
    := make_z_iso
      left_hand_iso_mor
      left_hand_iso_inv
      left_hand_iso_is_iso.

  Local Definition right_hand_iso
    : z_iso X ((F5 ∙ F5' ∙ adj_equiv_inv F4 ∙ adj_equiv_inv F4') (theory_presheaf L)).
  Proof.
    use make_z_iso.
    - use make_nat_trans.
      * exact (λ x y, y).
      * easy.
    - use make_nat_trans.
      * exact (λ x y, y).
      * easy.
    - split;
        apply nat_trans_eq_alt;
        easy.
  Defined.
```
